US04224344
A solution of 9-formyl-9,10-dihydro-9,10-methanoanthracene (200 mg) and sodium borohydride (60 mg) in methanol (5 ml) was stirred at room temperature for 30 minutes. The reaction mixture was diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to give 9-hydroxymethyl-9,10-dihydro-9,10-methanoanthracene. M.P. 165°-166° C.

reactant | 9-formyl-9,10-dihydro-9,10-methanoanthracene | 200 mg | C(=O)C12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C16H12O
reactant | sodium borohydride | 60 mg | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | O | H2O
product | 9-hydroxymethyl-9,10-dihydro-9,10-methanoanthracene | OCC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C16H14O
